US05055606
The same basic ingredients and quantities thereof were reacted as specified in Example 1, except the initial reaction composition included 75 ml. of isopropanol and 50 ml. of water. The resulting clear solution was cooled to 60° C., and the 1-dodecylmercaptan or laurylmercaptan was added during a 30-minute time period. No temperature change was noted, the composition was heated to reflux, and 25 ml. of water were added. Adding 25 ml. of isopropyl alcohol resulted in a clear solution, which was refluxed for 3 hours, moderate foaming being observed. After cooling, 58.3 grams of 50% aqueous sulfuric acid were added, and the composition was poured into a separatory funnel and washed with three 100 mililiter aliquots of hot water with sodium sulfate. Vacuum stripping yielded 134.5 grams of 3-dodecylthiopropionic acid product having a melting point of 60°-62.5° C., an acid value of 202.5 (204.4 theoretical), a laurylmercaptan percentage of 0.02%, and a yield of 98.2% by GLC.

reactant | water | O | H2O
reactant | 1-dodecylmercaptan | C(CCCCCCCCCCC)S | C12H26S
reactant | sulfuric acid | 58.3 grams | S(O)(O)(=O)=O | H2O4S
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
product | 3-dodecylthiopropionic acid | 134.5 grams, yield of 98.2% | C(CCCCCCCCCCC)CCC(=S)O | C15H30OS
